US09359338B2
Step 1: Synthesis of 2-chloro-N-(2-fluoro-4-nitro-phenyl)pyridin-4-amine
Add 2-chloropyridin-4-amine (500 mg, 3.9 mmol), 1,2-difluoro-4-nitrobenzene (620 mg, 3.9 mmol), Cs2CO3 (3.2 g, 9.8 mmol) to DMF (15 mL). Stir the reaction at 110° C. for 16 hrs. Cool to room temperature, add water (100 mL), extract with EtOAc (15 mL×3). Combine the organic layers and wash with brine, dry over anhydrous Na2SO4. Concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:4) affords the title compound (280 mg, 27%). MS: (M+1): 268.1.

reactant | 2-chloropyridin-4-amine | 3.9 mmol, 500 mg | ClC1=NC=CC(=C1)N | C5H5ClN2
reactant | 1,2-difluoro-4-nitrobenzene | 3.9 mmol, 620 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | Cs2CO3 | 9.8 mmol, 3.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-chloro-N-(2-fluoro-4-nitro-phenyl)pyridin-4-amine | 280 mg, 27% | ClC1=NC=CC(=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C11H7ClFN3O2
